US09126950B2
To a 25 mL, 3-neck RBF equipped with a magnetic stirrer and calcium chloride guard tube, 4-(2-((2-methoxyethoxy)methoxy)ethoxy)aniline (1.0 g in 10 mL DMF) and formaldehyde (0.062 g) were added portion wise to the reaction mixture at 0° C. and stirred for an additional 10 minutes. NaBH(OAc)3 (0.88 g) was added and the mixture was stirred for 5 minutes. The reaction was monitored on TLC using hexane:ethyl acetate (5:5) as mobile phase. After completion of the reaction, the reaction mixture was poured in water and extracted with ethyl acetate. Organic layer was washed with brine, dried over sodium sulfate and concentrated completely under reduce pressure at 40° C. Crude material was purified by using column chromatography. Desired product was eluted with 7% ethyl acetate in hexane to give 0.200 g of 4-(2-((2-methoxyethoxy)methoxy)ethoxy)-N-methylaniline. M+1=256.0.

reactant | 4-(2-((2-methoxyethoxy)methoxy)ethoxy)aniline | 10 mL, 1.0 g | COCCOCOCCOC1=CC=C(N)C=C1 | C12H19NO4
reactant | formaldehyde | 0.062 g | C=O | CH2O
reactant | NaBH(OAc)3 | 0.88 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | O | H2O
product | 4-(2-((2-methoxyethoxy)methoxy)ethoxy)-N-methylaniline | 0.200 g | COCCOCOCCOC1=CC=C(NC)C=C1 | C13H21NO4
